Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
Hematoma s/p procedure
 
Major Surgical or Invasive Procedure:
Stenting of the Right Superficial Femoral Artery

 
History of Present Illness:
___ with h/o HTN, HL, CAD, DM, presented for elective PTA and 
stenting of right femoral/SFA, complicated by large hematoma 
requiring ICU monitoring. 
.
Pt with lower extremity pain with rest and activity and open 
ulcers bilaterally since ___. Also reported swelling, 
rednes and scaliness.  Pt referred for angiography after ABI on 
left was 1.66, left CFA and SFA were biphasic on doppler, left 
popliteal , DP and ___ were monophasic. 
.
Procedure was successful to RSFA (ballooned and stented) but 
complicated by tear of branch of common femoral mid procedure 
causing large hematoma. An angioseal was placed, protamine 
given, pressure held on large hematoma. No aneurysm suspected. 
.
ROS: Dizzy at baseline, denies SOB, CP, palpitation, 
lightheadedness. Back pain at center, behind umbilicus. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  CAD s/p LAD stenting in ___. Most recent 
ETT ___: no ischemia. LVEF 63%. 
3. OTHER PAST MEDICAL HISTORY: 
-- Possible AAA. ___ u/s:  difficult study, no aneurysm 
seen.
-- atrial fibrillation on Coumadin 
-- PVD
   - ___ noninvasive study: RLE: moderate to severe
atherosclerotic disease. Evidence of severe RSFA stenosis and/or
occlusion. Right ABI 0.31. LLE: Evidence for left SFA stenosis
and/or occlusion. ABI 1.66. 
    -___ CT of pelvis and ___: right SFA mid vessel occlusion.
Left popliteal artery focal 70% calcific stenosis at the level 
of
the patella.
-- Gout
-- Insomnia
-- Vitamin B12 deficiency
-- COPD
-- Tremor, unsteady gait s/p fall ___ with fractured right ribs
(has refused to see neurologist)
-- ___: cellulitis
-- lumbar spondylosis
--  chronic back pain with possible compression fractures s/p  
fall
-- full thickness right rotator cuff tear
-- Cataracts s/p surgery
 
 
Social History:
___
Family History:
Mother died of CHF at age ___

 
Physical Exam:
GENERAL: WDWN male in NAD. Oriented x3.  Frustrated  

HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, dry mucus membranes

NECK: JVP not elevated

CARDIAC:  irregular rhythm, rate ___

LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB

ABDOMEN: Soft, NTND. No HSM or tenderness. 

EXTREMITIES: No c/c/e. Left large groin hematoma with dark 
ecchymosis, no tenderness

SKIN:  Back with no bruising or signs of retroperitoneal 
bleeding

 
Pertinent Results:
___ 09:42PM BLOOD WBC-9.5 RBC-3.91* Hgb-11.7* Hct-35.0* 
MCV-90 MCH-29.8 MCHC-33.3 RDW-16.7* Plt ___
___ 06:11AM BLOOD WBC-10.7 RBC-3.85* Hgb-12.0* Hct-34.9* 
MCV-91 MCH-31.1 MCHC-34.3 RDW-17.1* Plt ___
___ 08:15AM BLOOD ___
___ 09:42PM BLOOD Glucose-109* UreaN-28* Creat-1.4* Na-139 
K-4.1 Cl-99 HCO3-31 AnGap-13
___ 06:11AM BLOOD Glucose-100 UreaN-25* Creat-1.3* Na-142 
K-4.0 Cl-101 HCO3-31 AnGap-14
___ 09:42PM BLOOD CK(CPK)-65

Cardiology ReportCardiac CathStudy Date of ___  
FINAL DIAGNOSIS:    
1. Peripheral artery disease.
2. Successful PTA and stenting of the RSFA with a 8.0x60mm 
Zilver stent
that was postdilated with a 6.0x20mm Viatrac balloon. Final 
angiography
revealed no residual stenosis, no angiographically apparent 
dissection
and good distal flow (see PTA comments).
3. Successful deployment of angioseal closure device.

Radiology ReportCT ABDOMEN W/O CONTRASTStudy Date of ___ 
3:40 ___
PRELIMINARY REPORT
Large subcutaneous hematoma extending from the left groin access 
site
inferiorly to the superior medial thigh, and superiorly to the 
left iliac
crest. No retroperitoneal blood

Radiology ReportFEMORAL VASCULAR US LEFTStudy Date of ___ 
9:06 AM
No pseudoaneurysm identified in the left groin. A limited
examination was performed due to the large infiltrative hematoma 
in the left
groin. No discrete collection identified.
 
Brief Hospital Course:
Mr. ___ is an ___ year old male with history of hypertension, 
hyperlipidemia, CAD, diabetes, who presented for elective 
percutaneous transluminal angioplasty and stenting of right 
superficial femoral artery, complicated by large hematoma 
requiring ICU monitoring. 

# Left Groin Hematoma: 
Patient was transfused two units of pRBCs, after which his 
hematocrit remained stable.  His coumadin was held in the 
setting of bleed, but his aspirin and plavix were continued in 
the setting of recent stenting. Left groin ultrasound ruled out 
aneurysm and AV fistula, and noncontrast CT scan ruled out 
retroperitoneal bleed. CT scan showed extent of large hematoma 
in subcutaneous tissue.  

# Peripheral Vascular Disease: 
Right Superficial Femoral Artery was successfully stented by 
Interventional Cardiology. The patient was noted to have 
complication of large left hematoma at the site of entry for the 
procedure.  After the procedure, the patient's right foot was 
noted to have strong dorsalis pedis pulse and was warm, well 
perfused, while the left foot felt colder in comparison with 
dopplerable pulses.
.  
# Hypertension:
Home dose of metoprolol was held overnight in order to monitor 
hemodynamic status more effectively and in setting of 
bradycardia with ventricular rates in ___ metoprolol was 
restarted prior to discharge.  Patient may benefit from an ACE 
inhibitor for renal and cardiac protection in the setting of 
diabetes and heart disease if there are no contraindications to 
its use in him. 
.  
# Hyperlipidemia: 
Lipid panel was last checked in the ___ system in ___, and 
lipids appear to have been well controlled at that time.  
Patient was continued on home dose atorvastatin during this 
hospitalization. 
.  
# Coronary Artery Disease:
Patient was continued on aspiring, plavix, statin.  His 
metoprolol was held overnight to monitor his hemodynamic status 
and was restarted prior to discharge.
.  
 
# Chronic renal insufficiency: 
Patient presumed to have chronic renal insufficiency because 
creatinine in ___ in ___ system was 1.2, though patient may 
have had acute issue at that time elevating creatinine; current 
baseline renal function unclear. Creatinine 1.4 prior to 
angiography, stable at 1.3 prior to discharge.  Creatinine 
should be closely monitored after contrast load for procedure in 
the setting of renal insufficiency.
.
# Diabetes Mellitus:
Patient's metformin was held during hospitalization and is to be 
restarted the day after discharge.  His blood sugars were 
monitored, and he was placed on an insulin sliding scale during 
this hospitalization. 
.  
# Atrail Fibrillation: 
Patient is on coumadin at home, which was held overnight in the 
setting of bleed and restarted the next day when hematoma was 
found to be stable.  Patient remained in slow atrial 
fibrillation, rates in ___ during this hospitalization, likely 
with some vagal response from groin hematoma.  Metoprolol was 
held in the setting of already slow rate. 
 
.  
# COPD:
Home Advair was continued.
.
# Gout: 
Patient was continued on home dose allopurinol. 

 
Medications on Admission:
ALLOPURINOL ___ mg by mouth once a day
ATORVASTATIN 40 mg by mouth every evening
FLUTICASONE-SALMETEROL 250 mcg-50 mcg 1 puff twice a day
FUROSEMIDE 20 mg on ___, 2 tablets all other days
GABAPENTIN 300 mg by mouth daily
L-METHYLFOLATE-VIT B12-VIT B6 2 mg-2.8 mg-25 mg by mouth daily
METFORMIN 500 mg by mouth twice a day
METOPROLOL TARTRATE 25 mg by mouth twice a day
OMEPRAZOLE 20 mg by mouth every morning
WARFARIN 6 mg by mouth every evening, last dose ___ pre 
angiogram
ASPIRIN 325 mg by mouth daily
CYANOCOBALAMIN 1,000 mcg by mouth daily
VIT C-VIT E-COPPER-ZNOX-LUTEIN [PRESERVISION] 226 mg-200 unit-5 
mg-0.8 mg-34.8 mg by mouth twice a day
VITAMIN A-VITAMIN C-VIT E-MIN [OCUVITE] by mouth twice a day
 
Discharge Medications:
1. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) puff Inhalation BID (2 times a day).  
4. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
6. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO once a day.  

7. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) puff Inhalation once a day.  
8. Furosemide 20 mg Tablet Sig: as directed Tablet PO once a 
day: please take 20mg (1 tab) on ___, please take 40mg 
(2 tabs) on ___, ___, ___.  
9. L-Methylfolate-Vit B12-Vit B6 2.8-2-25 mg Tablet Sig: One (1) 
Tablet PO once a day.  
10. Metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.  

11. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO 
twice a day.  
12. Famotidine 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
13. Vit C-Vit E-Copper-ZnOx-Lutein 226-200-5 mg-unit-mg Capsule 
Sig: One (1) Capsule PO twice a day.  
14. Vitamin A-Vitamin C-Vit E-Min     Tablet Sig: One (1) Tablet 
PO twice a day.  
15. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain for 15 doses.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
1. hematoma
2. PVD

Secondary Diagnoses: 
1. Atrial fibrillation
2. COPD
3. Lumbar spondylosis

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
Dear Mr. ___, 
You were admitted to the hospital after a procedure to stent an 
artery in your right leg because you had a lot of bleeding into 
your left groin that we wanted to monitor.  We transfused you 
with two units of blood and monitored you overnight to make sure 
your blood counts were stable and you did not continue to bleed. 
Your blood counts were stable and you were discharged home. You 
should not take your coumadin for the next three days. You will 
be contacted by Dr. ___ on ___. If you do not hear from 
 him by noon on ___ please call him at ___. Please 
discuss restarting your coumadin at this appointment. Also, 
please discuss whether an ACE inhibitor would be beneficial.

The following changes have been made to your medications: 
- Stop coumadin until your appointment with Dr. ___ on 
___
- START plavix 75mg by mouth daily - please do not stop taking 
this for any reason. Only your cardiologist should stop this 
medication.
- Stop Omeprazole - as this medication interacts with plavix
- START famotidine 20mg by mouth daily

Please be sure to keep all of your followup appointments. 

Please seek medical attention if you experience any symptoms 
concerning to you. 
 
Followup Instructions:
___